US08633186B2
2-Nitro-6-(2-(pyridin-2-yl)ethoxy)benzonitrile
Prepared as in Example 187c from 2-(pyridin-2-yl)ethanol and 2,6-dinitrobenzonitrile in 82% yield as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 3.27 (t, J=6.4 Hz, 2H), 4.64 (t, J=6.4 Hz, 2H), 7.23-7.27 (m, 1H), 7.41 (d, J=8.0 Hz, 1H), 7.71-7.79 (m, 2H), 7.86-7.91 (m, 2H), 8.50-8.52 (m, 1H). MS 270 (MH+).

reactant | 2-(pyridin-2-yl)ethanol | N1=C(C=CC=C1)CCO | C7H9NO
reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
product | 2-Nitro-6-(2-(pyridin-2-yl)ethoxy)benzonitrile | 82% yield | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)OCCC1=NC=CC=C1 | C14H11N3O3
